* C:\Users\Charlie\Desktop\ISCAD_GIP\LTspice parasitics\InverterUnbalancedDPT\InverterUnbalancedDPT_35-5-5DPT_48VDC_POST_EMPIRICAL_MODEL_scratch.asc
* Generated by LTspice 26.0.1 for Windows.
V_DC N020 0 {supply_voltage} Rser=0
C_DC1 C_DC1 N043 {DC_link_capacitor} Rser=0
C_snb1 N010 N025 {snubber_capacitor} Rser=0
L_ph V_D_high3 N024 {phase_inductance} Rser={phase_resistance}
X§M1 N004 V_G_high1 V_S_high1 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M2 N028 V_G_low1 V_S_low1 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm1[H] V_S_high1 N018 {common_mode_inductance} Rser=20u
L_cm1[L] V_S_low1 N036 {common_mode_inductance} Rser=20u
L_pwr1 N025 N033 {power_loop_inductance} Rser=100u
C_snb2 N011 N026 {snubber_capacitor}
X§M3 N005 V_G_high2 V_S_high2 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M4 N029 V_G_low2 V_S_low2 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm2[H] V_S_high2 N015 {common_mode_inductance} Rser=20u
L_cm2[L] V_S_low2 N037 {common_mode_inductance} Rser=20u
L_pwr2 N026 N034 {power_loop_inductance} Rser=100u
C_snb3 N012 N027 {snubber_capacitor}
X§M5 N006 V_G_high3 V_S_high3 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M6 N030 V_G_low3 V_S_low3 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm3[H] V_S_high3 N016 {common_mode_inductance} Rser=20u
L_cm3[L] V_S_low3 N038 {common_mode_inductance} Rser=20u
L_pwr3 N027 N035 {power_loop_inductance} Rser=100u
L1 V_DClink N001 {DC_link_inductance} Rser=0
L2 N044 N043 {DC_link_inductance} Rser=0
R1 V_D_high1 N001 {DC_link_resistance}
R2 low N044 {DC_link_resistance}
L3 V_supply V_DClink {supply_inductance} Rser=1m
L4 N043 0 {supply_inductance} Rser=1m
R3 V_DClink C_DC1 {C_DC_ESR}
V1 N031 low PWL(0 0 {Tdelay} 0 {Tdelay+Trise} {Vgate} {Tdelay+Trise+T1} {Vgate} {Tdelay+Trise+T1+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2} 0 {Tdelay+Trise+T1+Tfall+T2+Trise} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+5*Tdelay} 0)
L5 V_D_high1 N002 {branch_inductance} Rser=0
R5 V_D_high2 N002 {branch_resistance}
L6 V_D_high2 N003 {branch_inductance} Rser=0
R6 V_D_high3 N003 {branch_resistance}
L7 N045 low {branch_inductance} Rser=0
R7 N041 N045 {branch_resistance}
L8 N046 N041 {branch_inductance} Rser=0
R8 N042 N046 {branch_resistance}
L_g1 N031 N032 {gate_inductance} Rser=0
R_g1 N032 V_G_low1 {gate_resistor}
L_g2 N031 N039 {gate_inductance} Rser=0
L_g3 N031 N040 {gate_inductance} Rser=0
R_g2 N039 V_G_low2 {gate_resistor}
R_g3 N040 V_G_low3 {gate_resistor}
V3 N013 phase 0
L_g4 N013 N014 {gate_inductance} Rser=0
R_g4 N014 V_G_high1 {gate_resistor}
L_g5 N013 N017 {gate_inductance} Rser=0
L_g6 N013 N019 {gate_inductance} Rser=0
R_g5 N017 V_G_high2 {gate_resistor}
R_g6 N019 V_G_high3 {gate_resistor}
L9 phase N021 {branch_inductance} Rser=1m
R4 N022 N021 {branch_resistance}
L10 N022 N023 {branch_inductance} Rser=1m
R9 N024 N023 {branch_resistance}
R10 V_D_high1 N010 {snubber_resistor}
R11 V_D_high2 N011 {snubber_resistor}
R12 V_D_high3 N012 {snubber_resistor}
D1 N020 V_supply currentLimit
R13 V_D_high1 N004 {Rd_int}
R14 N018 phase {Rs_int}
R15 phase N028 {Rd_int}
R16 N036 low {Rs_int}
R17 V_D_high2 N005 {Rd_int}
R18 V_D_high3 N006 {Rd_int}
R19 N015 N022 {Rs_int}
R20 N016 N024 {Rs_int}
R21 N022 N029 {Rd_int}
R22 N024 N030 {Rd_int}
R23 N037 N041 {Rs_int}
R24 N038 N042 {Rs_int}
R25 N033 low {Rsnb_int}
R26 N034 N041 {Rsnb_int}
R27 N035 N042 {Rsnb_int}
.model D D
.lib C:\Users\Charlie\AppData\Local\LTspice\lib\cmp\standard.dio
.param D=0.013
.param f_SW = 25k
.param period = {1/f_SW}
* .options reltol=1e-3 abstol=1e-12 vntol=1e-6 ; standard
.include ../OptiMOS5_80V_LTSpice_scratch.lib
.param snubber_capacitor=9.9e-08
.param DC_link_capacitor = 0.000132
.param supply_voltage =48
* .param phase_resistance = 165m
* .param phase_inductance = 73.5u
.param common_mode_inductance = 1e-09
.param power_loop_inductance = 3.8e-09
.param gate_resistor = 5.1
.param gate_inductance = 2e-08
* SETUP
* MOSFETs
* OPERATING POINT
* PARASITIC INDUCTANCES
* PASSIVES
.param Vgate = 15
.param DC_link_inductance = 5.65e-09
* ASSUME: symmetrical power loops
* TRACE + BUS BAR RESISTANCES NOT YET ESTIMATED\n- Bus bar resistance: 12x0.5mm, approx 2.8uOhm/mm
* ASSUME: balanced parallel MOSFETs
* GATE DRIVE loops modelled as unbalanced
* .param supply_inductance = 1m
* PARASITIC RESISTANCES
.param DC_link_resistance = 0.00015
* .param C_DC_ESR = 0.00048
* OneNote > Capacitor Reanalysis (DC)
* 33n per cap. OneNote > Snubber Capacitors (DC) (should be u not n??)
* OneNote > 3 slot (CG)
* OneNote > 3 slot (CG)
.options plotwinsize=0 ; allows viewing waveform after abort
* parasitics are capacitance/inductance/resistance\npassive components are capacitor/inductor/resistor\nhigh and low side elements have [H] and [L] appended to name\nG_CC = common reference voltage, phase output etc.\nGD = gate drive\nG = gate\nD = drain\nS = source
.options maxstep=10n ; pushes through transient reponse of reactive components
* .options reltol=3e-3 abstol=1e-9 vntol=1e-3 ; very relaxed
* .options reltol=10e-3 abstol=1e-9 vntol=1e-4 ; relaxed to supress numerical noise
* PWM (for DPT)
* L_pwr:    ESR = 100u (approx 30mm of bus bar)
* L_cm[H], L_cm[L}:    ESR = 0 (series resistance present on DC link)
* L_n:    ESR = 50u (approx 15mm bus bar)
* OneNote > Lab > Power Supply Requirements
.param C_snb_ESR = 0.001
.param C_DC_ESR = 0.00048
* OneNote > PCB > DC Link Capacitor Reanalysis for (for CAA573X7S2A476M640LH)
* approx 50mm bus bar
* approx 3m per cap. OneNote > PCB > Snubber Capacitors
.param T1 = 35u
.param T2 = 5u
.param T3 = 5u
.param Trise = 8e-08
.param Tfall = 7e-08
.param Tsim={Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+50u}
.tran 0 {Tsim} 240u uic
.param Tdelay= 250u     ; settling time before first pulse, charges MOSFET capactitance
.ic  V(C_DC1) = {supply_voltage}
.options method=gear ; numerical damping
* .options reltol=3e-3 abstol=1e-10 vntol=1e-5 gmin=1e-10 cshunt=1e-15; relaxed
* .options numdgt=7 ; reduce compression of waveform data
.ic V(V_D_high1) = {supply_voltage}
+ V(V_D_high2) = {supply_voltage}
+ V(V_D_high3) = {supply_voltage}
* .save V(n014) dialogbox
.ic V(V_DClink) = {supply_voltage}
* NOMENCLATURE
* <Filename_Model.asc>
* <Filename_Model_PlotsDescriptor.plt>
.options gmin=1e-7 cshunt=1e-12
.ic V(V_supply)=48
.param branch_inductance = 1e-09
.param branch_resistance = 2e-05
.options reltol=10e-3 abstol=1e-8 vntol=1e-3 ; relaxed to supress numerical noise
.param Vlogic = 5
* 18mm spacing per brach
* UNCERTAIN
* .options reltol=10e-3 abstol=1e-7 vntol=1e-3 ; relaxed to supress numerical noise
.param phase_inductance = 36u
.param phase_resistance = 170m
.param supply_inductance = 1n
.param snubber_resistor = 2.7
.model currentLimit D(Ron=1m Vfwd=1m Roff=1meg vrev=1k epsilon=0.1 revepsilon=1 ilimit=1)
.param Rd_int={28m*solder_t}
.param Rs_int={580m*solder_t}
.param Rsnb_int={200m*solder_t}
.param solder_t=0.001
.backanno
.end
